US05217971
A mixture of 4,5-bis(4methyoxyphenyl)-2-piperazin-1-ylcarbonylthiazole hydrochloride (0.40 g) in dichloromethane (30 ml) was added to a saturated aqueous solution of sodium hydrogencarbonate, and extracted with dichloromethane. The separated organic layer was washed with brine and dried over magnesium sulfate. After filtration, the filtrate was evaporated in vacuo. The resulting residue was dissolved in a mixture of dichloromethane (10 ml) and triethylamine (0.14 ml). To the mixture was added dropwise a solution of acetyl chloride (0.07 ml) in dichloromethane (5 ml), at 0° to 5° C., and the reaction mixture was stirred at ambient temperature for 30 minutes. The resulting mixture was poured into water, and adjusted to pH 11 with aqueous solution of potassium carbonate, and extracted with dichloromethane. The separated organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate, water, dilute hydrochloric acid, water, and brine, and dried over magnesium sulfate and treated with activated charcoal. After filtration, the filtrate was evaporated in vacuo. The resulting residue was recrystallized from a mixture of isopropyl ether and ethanol to give a crystal of 2-(4acetylpiperazin-1-yl)carbonyl-4,5-bis(4methoxyphenyl)thiazole (0.18 g).

reactant | 4,5-bis(4methyoxyphenyl)-2-piperazin-1-ylcarbonylthiazole hydrochloride | 0.40 g | Cl.COC1=CC=C(C=C1)C=1N=C(SC1C1=CC=C(C=C1)OC)C(=O)N1CCNCC1
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-(4acetylpiperazin-1-yl)carbonyl-4,5-bis(4methoxyphenyl)thiazole | 0.18 g | C(C)(=O)N1CCN(CC1)C(=O)C=1SC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C24H25N3O4S
